US07060827B2
A mixture of 7-nitro-1,2,3,4-tetrahydroisoquinoline (0.55 g, 3.1 mmole), di-t-butyldicarbonate (0.70 g, 3.2 mmole), triethylamine (1.0 mL, 7.7 mmole) in dichloromethane (8 mL) was stirred at rt for 8 h. The reaction mixture was diluted with water (50 mL) and stirred for 1 h. The organic phase was separated and washed with brine. Concentration of the organic phase gave 2-(t-butoxycarbonyl)-7-nitro-1,2,3,4-tetrahydroisoquinoline. 1H NMR (CDCl3): δ 8.03–7.95 (m, 2H), 7.28 (d, 1H, J=8.4 Hz), 4.66 (s, 2H), 3.68 (t, 2H, J=6.0 Hz), 2.92 (t, 2H, J=6.0 Hz),1.49 (s, 9H).

reactant | 7-nitro-1,2,3,4-tetrahydroisoquinoline | 3.1 mmole, 0.55 g | [N+](=O)([O-])C1=CC=C2CCNCC2=C1 | C9H10N2O2
reactant | di-t-butyldicarbonate | 3.2 mmole, 0.70 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 7.7 mmole, 1.0 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | 2-(t-butoxycarbonyl)-7-nitro-1,2,3,4-tetrahydroisoquinoline | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)[N+](=O)[O-] | C14H18N2O4
